US07601843B2
N-[1-(3-tert-Butyldimethylsiloxy-3-cyclohexylpropyl)piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide
After adding 2-furoyl chloride (0.14 mL, 1.4 mmol) dropwise to a solution of 1-(3-tert-butyldimethylsiloxy-3-cyclohexylpropyl)-4-(5-methylpyridin-2-yl)aminopiperidine (423 mg, 0.95 mmol) and triethylamine (0.264 mL) in methylene chloride (4 mL) while cooling on ice, the mixture was stirred at room temperature for 18 hours. NH silica Chromatorex DM1020 was added to the reaction mixture, which was then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (60 g NH silica Chromatorex DM2035, hexane:ethyl acetate=4:1) to obtain the title compound as an oil (458 mg) (89.4% yield).

reactant | 2-furoyl chloride | 1.4 mmol, 0.14 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | 1-(3-tert-butyldimethylsiloxy-3-cyclohexylpropyl)-4-(5-methylpyridin-2-yl)aminopiperidine | 0.95 mmol, 423 mg | O([Si](C)(C)C(C)(C)C)C(CCN1CCC(CC1)NC1=NC=C(C=C1)C)C1CCCCC1 | C26H47N3OSi
reactant | triethylamine | 0.264 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | N-[1-(3-tert-Butyldimethylsiloxy-3-cyclohexylpropyl)piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 458 mg, 89.4% yield | O([Si](C)(C)C(C)(C)C)C(CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C)C1CCCCC1 | C31H49N3O3Si
